US06448270B1
B) 1-(4-(4-Aminophenyl)but-3-yn-1-yl)-4-benzyl-4-hydroxypiperidine
A mixture of 4-benzyl-1-(but-3-yn-1-yl)-4-hydroxypiperidine (243 mg, 1.00 mmol), 4-iodoaniline (219 mg, 1.00 mmol), copper(I) iodide (40 mg), PdCl2(PPh3)2 (50 mg, 0.04 mmol) in 10 mL of Et3N is stirred at room temperature under N2 for 20 hr. The mixture is filtered and washed with Et3N (3×15 mL). The filtrate is evaporated in vacuo and is purified by flash chromatography to give the product as a brown oil (100 mg, 30%): 1H NMR (CDCl3) 1.49 (m, 3 H), 1.72 (m, 2 H), 2.38 (m, 2 H), 2.55-2.66 (m, 6 H), 2.74 (s, 2 H), 3.75 (s, 2 H), 6.52 (d, J=8.4 Hz, 2 H), 7.15-7.30 (m, 7 H).

reactant | 4-benzyl-1-(but-3-yn-1-yl)-4-hydroxypiperidine | 1.00 mmol, 243 mg | C(C1=CC=CC=C1)C1(CCN(CC1)CCC#C)O | C16H21NO
reactant | 4-iodoaniline | 1.00 mmol, 219 mg | IC1=CC=C(N)C=C1 | C6H6IN
solvent | Et3N | 10 mL | CCN(CC)CC | C6H15N
catalyst | copper(I) iodide | 40 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 0.04 mmol, 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(4-(4-Aminophenyl)but-3-yn-1-yl)-4-benzyl-4-hydroxypiperidine | 100 mg, 30% | NC1=CC=C(C=C1)C#CCCN1CCC(CC1)(O)CC1=CC=CC=C1 | C22H26N2O
